US04317905
Synthesis of (cis) tridec-4-en-2-yn-1,13-diol
Into a solution of 16.7 g of 4-acetoxy-hex-5-en-2-ynyl-tetrahydropyranyl-ether in 100 ml of tetrahydrofuran kept under nitrogen and containing 10 ml of a 0.1 molar solution of Li2CuCl4 in tetrahydrofuran, 100 ml of a molar solution of 7-tetrahydropyranyloxy-heptyl-magnesium chloride in tetrahydrofuran were dripped at -20° C. The temperature was allowed to rise slowly to 0° C. and, after two hours at this temperature, an aqueous solution of 10% HCl was added up to a faint acidity.

reactant | 4-acetoxy-hex-5-en-2-ynyl-tetrahydropyranyl-ether | 16.7 g | C(C)(=O)OC(C#CCC1(OCCCC1)OC1(OCCCC1)CC#CC(C=C)OC(C)=O)C=C | C26H34O7
reactant | 7-tetrahydropyranyloxy-heptyl-magnesium chloride | O1C(CCCC1)OCCCCCCC[Mg]Cl
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | (cis) tridec-4-en-2-yn-1,13-diol | C(C#C\C=C/CCCCCCCCO)O | C13H22O2
